US08008293B2
Synthesis of 1-[(2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol
20% palladium hydroxide on carbon (100 mg, 50% water contain) was added to an ethanol (7 mL) solution of 1-[(2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol (600 mg). Under a hydrogen atmosphere, stirring was continued for 3 hours. The resultant was filtered on celite, and by removing the solvent under a vacuum, the title compound (440 mg) was obtained. The physical property values are as follows.

reactant | 1-[(2R,5S)-1-benzyl-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol | 600 mg | C(C1=CC=CC=C1)N1[C@H](CC[C@H]1C1=CC(=C(C(=C1)F)F)F)C1(CC1)O | C20H20F3NO
catalyst | palladium hydroxide on carbon | 100 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 1-[(2R,5S)-5-(3,4,5-trifluorophenyl)pyrrolidine-2-yl]cyclopropanol | 440 mg | FC=1C=C(C=C(C1F)F)[C@@H]1CC[C@@H](N1)C1(CC1)O | C13H14F3NO
